US04289763
A solution of 1.0 g of 6α,9-dichloro-11β,21-dihydroxy-16α-methyl-1,4-pregnadiene-3,20-dione in 10 ml of 1,2-dichloroethane is combined with 2.5 ml of pivalic anhydride, 1.0 g of sodium hydroxide, as well as 5 ml of water and stirred for 90 minutes at 30° C. After adding 50 ml of dichloromethane the organic phase is separated, washed with water, dried over sodium sulfate, and concentrated under vacuum. The residue is chromatographed on silica gel. With 19-26% ethyl acetate-dichloromethane, after recrystallization from acetone-diisopropyl ether, 245 mg of 6α,9-dichloro-11β-hydroxy-16α-methyl-21-trimethylacetoxy-1,4-pregnadiene-3,20-dione is obtained, m.p. 238° C. [α]D25 =+110° (chloroform).

reactant | 6α,9-dichloro-11β,21-dihydroxy-16α-methyl-1,4-pregnadiene-3,20-dione | 1.0 g | Cl[C@H]1C[C@H]2[C@@H]3C[C@H]([C@H](C(CO)=O)[C@]3(C[C@@H]([C@@]2([C@]2(C=CC(C=C12)=O)C)Cl)O)C)C | C22H28Cl2O4
reactant | pivalic anhydride | 2.5 ml | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
reactant | sodium hydroxide | 1.0 g | [OH-].[Na+]
reactant | water | 5 ml | O | H2O
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 6α,9-dichloro-11β-hydroxy-16α-methyl-21-trimethylacetoxy-1,4-pregnadiene-3,20-dione | 245 mg | Cl[C@H]1C[C@H]2[C@@H]3C[C@H]([C@H](C(COC(C(C)(C)C)=O)=O)[C@]3(C[C@@H]([C@@]2([C@]2(C=CC(C=C12)=O)C)Cl)O)C)C | C27H36Cl2O5
